US07902373B2
tert-Butyl 3-(2-(3-fluorophenyl)nicotinamido)azetidine-1-carboxylate
To a solution of 6-(3-fluorophenyl)nicotinic acid (0.50 g, 2.30 mmol) in DMF (10 mL) was added HBTU (0.96 g, 2.53 mmol) and DIPEA (0.52 mL, 2.99 mmol). After 1 hr at room temperature, tert-butyl 3-aminoazetidine-1-carboxylate was added and the reaction stirred overnight. The solvent was removed and the residue was partitioned between ethyl acetate and sodium bicarbonate (aqueous saturated). The organic layer was washed with brine (2×), dried (MgSO4), filtered and concentrated to give the desired product, tert-butyl 3-(2-(3-fluorophenyl)nicotinamido)azetidine-1-carboxylate (630 mg, 74%). LC/MS (M+H)=372.2 observed, 372.17 expected

reactant | 6-(3-fluorophenyl)nicotinic acid | 2.30 mmol, 0.50 g | FC=1C=C(C=CC1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
reactant | HBTU | 2.53 mmol, 0.96 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.99 mmol, 0.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-(2-(3-fluorophenyl)nicotinamido)azetidine-1-carboxylate | 630 mg, 74% | FC=1C=C(C=CC1)C1=C(C(=O)NC2CN(C2)C(=O)OC(C)(C)C)C=CC=N1 | C20H22FN3O3
